### ISSUE TITLE
Variable-element vector and list decoders accept a first offset of 0

### ISSUE THREAD

**Issue by leolara** [etheorem/etheorem#81]
## Context

`SSZType.deserialize` does not anchor the first offset of a variable-element
collection to the size of the offset table. Both the `.vector` arm
(`Spec/Deserialize.lean:359`) and the `.list` arm (`:388`) accept a first
offset of `0`, which points back into the offset table itself.

`deserializeVarElems` (`:558`) checks two of the three offset rules the SSZ
spec requires. It rejects out-of-order offsets (`curOff > nextOff`) and
out-of-range offsets (`nextOff > bufEnd`). Nothing pins `off₀` to
`n * BYTES_PER_LENGTH_OFFSET`, so any monotone sequence starting at `0`
passes.

The container arm already performs exactly this check at `:433`:

```lean
if firstOff ≠ prefixSize then .error .invalidOffset
```

The collection arms need the same anchor.

`ssz/simple-serialize.md:295` states the property this breaks: "any bytestring
has at most one object it could deserialize to". Line 328 names the required
hardening: "Offsets: out of order, out of range, mismatching minimum element
size", and line 329 adds "Scope: Extra unused bytes".

## The test that should pass and does not

Both examples below hold today. Both state the wrong behavior. Each should
become `.isOk = false` once the check lands.

```lean
import SizzLean.Spec.Deserialize
import SizzLean.Spec.Serialize
open SizzLean.Spec

-- A 1-element vector of a variable-size element type.
-- Its offset table is 4 bytes, so the only legal first offset is 4.
def ty : SSZType := .vector (.list (.uintN 8) 4) 1

-- WRONG: the decoder accepts a first offset of 0.
example : (SSZType.deserialize ty ⟨#[0,0,0,0]⟩).isOk = true := by native_decide

-- The same shape in a container is rejected, as it should be.
def cty : SSZType := .container [.list (.uintN 8) 4]
example : (SSZType.deserialize cty ⟨#[0,0,0,0]⟩).isOk = false := by native_decide
```

The vector case is lossy. The 4-byte input decodes, then reserializes to a
different 8-byte buffer:

```lean
example :
    (match SSZType.deserialize ty ⟨#[0,0,0,0]⟩ with
     | .ok (v, _) => (SSZType.serialize ty v).toList
     | .error _   => []) = [4,0,0,0,0,0,0,0] := by native_decide
```

The list arm fails differently. `off₀ = 0` makes `count = 0 / 4 = 0`, so the
decoder returns the empty list and reports all 4 bytes as consumed. Those
bytes are silently dropped:

```lean
def lty : SSZType := .list (.list (.uintN 8) 4) 4

-- WRONG: decodes as the empty list, consuming 4 bytes that reserialize to 0.
example :
    (match SSZType.deserialize lty ⟨#[0,0,0,0]⟩ with
     | .ok (v, used) => ((SSZType.serialize lty v).size, used)
     | .error _      => (999, 999)) = (0, 4) := by native_decide
```

## Why conformance is green

Upstream `ssz_generic` has no coverage for this path. Its README lists
`complex_vector` as *not supported yet*, so no vector-of-variable-element
case exists, valid or invalid. `SszGenericRunner.lean:165` handles `invalid`
cases correctly. There is nothing to feed it.

## Desired change

Anchor the first offset in both collection arms, matching the container arm:

- `.vector t n`: reject unless `off₀ = n * BYTES_PER_LENGTH_OFFSET`.
- `.list t cap`: `count` derives from `off₀`, so the anchor is implied for
  non-zero counts. Reject the `off₀ = 0` case on a non-empty buffer, which
  currently reports a false `used = b.size`.

## Acceptance

- The five examples above are restated with the correct expectations and
  hold as regression tests in `SizzLean/Tests/`.
- `serialize (deserialize b) = b` holds for every buffer the collection arms
  accept.
- The `vectorVar` and `listVar` arms of `decode_encode` and
  `serialize_injective` become statable and provable. They cannot be stated
  truthfully against the current decoder.
- No new axiom class.

## Related

- #68 tracks the `vectorVar` / `listVar` central theorems this blocks.
- PR #70 lands the codec-level lemmas that feed those proofs.
